Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
URI symptoms, shortness of breath  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old previously healthy man but with
history anxiety and depression transferred from ___
after presenting earlier on ___ with 5 days of increased
fatigue, fever to ___, shortness of breath, positional chest
pain and found to have myopericarditis. 

Mr. ___ started feeling tired and run-down about 5 days ago.
He has impacted wisdom teeth and started having tooth pain and
attributed his symptoms to his wisdom teeth possibly being
infected. He describes primary symptoms as fatigue and muscle
aches. After 2 days of fatigue, he began to have migraines that
woke him up from sleep with low-grade fevers. He subsequently
woke up from sleep with his heart racing and chest pounding with
significant diaphoresis. Describe squeezing pain in his left
axilla that then spread across his chest. Was worse when he sat
up and he had to pace around before it ultimately improved. He
tried tylenol and rocking which helped only minimally. He denies
neck stiffness. He developed loose stool that started 5 days 
ago,
denies diarrhea. Currently receives marijuana through medical
dispensary for anxiety and normally vapes. No other drugs. 
Denies
any current or previous IV drug use cocaine. He notes that about
1 month ago, patient's wife was sick with nasal and chest
congestion and shortness of breath. Patient did not get sick at
that time. No foreign travel. No fall or trauma. Denies dyspnea,
nausea, vomiting. 

After presentation to ___, he was found to have diffuse
mild ST elevations and PR depressions consistent with
pericarditis, elevated troponin, TTE showing depressed EF to
___ visually with akinetic apex concerning for 
myopericarditis
vs stress myopathy. He was treated with nitroglycerin for
hypertension and found to be in sinus tachycardia to the 120s.
Also found to have transaminitis and underwent right upper
quadrant ultrasound that showed mild fatty liver but no other
acute process. Transferred via med flight for further
evaluation. 

In the ED, initial VS: T100.6, HR120, BP117/58, RR22, PO298% RA 
- Exam notable for: large neck precludes accurate JVP 
assessment,
tachy but regular, clear lungs, no rash, mild decreased fine
touch and priopioception in left foot, trace edema, cool feet 
but
warm at calves and above. 
- Labs notable for: INR 1.4, ALT 67, AST 110, AP 69, tbili 0.8,
trop 1.25, MB 32, CK 976, MBI 3.3, BNP 2796, Cr 0.7, UA with 40
ketones, lactate 1.3
- Imaging notable for:  
*EKG: sinus tachycardia rate 140s, LAD, intervals ok with QTc
462/QRS 98, no diffuse PR depressions or ST elevations  
- Pt given:  
IV Acetaminophen IV 1000 mg 
IV Morphine Sulfate 4 mg
PO/NG Captopril 6.25 mg 
- Vitals prior to transfer: HR113, BP102/68, RR18, PO298% RA  

Upon arrival to the floor, the patient reports denies chest 
pain.
Denies fever or chills currently. Complains of ongoing loose
stool, but no diarrhea. Denies nausea or vomiting. Denies new
weakness or numbness in his extremities.  

 
Past Medical History:
anxiety, on medical marijuana
depression
intermittent use of Adderall
 
 
Social History:
___
Family History:
MGF died from heart attack, DM2
Mother DM2
MGM DM2
PGM DM2
No family history of SCD, cardiomyopathy, or arrhythmia.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
___ 2353 Temp: 97.8 PO BP: 115/83 HR: 136 RR: 18 O2 sat: 
94%
O2 delivery: ra Dyspnea: 0 RASS: 0 Pain Score: ___ 
General: Lying in bed comfortably with wife at beside. 
HEENT: MMM, EOMI, PERRL. 
Neck: JVP difficult to appreciate given habitus, appears mildly
elevated to 11-12cm. No LAD. 
CV: Tachycardic. Regular rhythm. Normal S1, S2. +S3. No rubs or
murmurs. 
Lungs: No rales, rhonchi, or wheezes.   
Abdomen: Obese. Soft, non-tender, non-distended. 
Ext: Warm, well perfused. 2+ pulses. Trace edema. 
Neuro: CNII-XII intact, ___ strength upper/lower extremities.
Appears anxious.

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 623)
    Temp: 98.6 (Tm 99.0), BP: 111/73 (111-126/69-76), HR: 87 
(87-94), RR: 20 (___), O2 sat: 97% (94-97), O2 delivery: RA  
Fluid Balance (last updated ___ @ 2246) 
  Last 8 hours No data found
  Last 24 hours  Total cumulative 760ml
    IN: Total 1160ml, PO Amt 1160ml
    OUT:  Total 400ml, Urine Amt 400ml  

General: Lying in bed comfortably with wife at beside. 
HEENT: MMM, EOMI, PERRL. 
Neck: JVP not appreciable at 30 degrees. No LAD. 
CV: RRR. No rubs or murmurs. 
Lungs: CTAB, no rales, rhonchi, or wheezes. Normal work of 
breathing.
Abdomen: Obese. Soft, non-tender, non-distended. 
Ext: Warm, well perfused. 2+ pulses. Trace edema.
Neuro: CNII-XII intact, ___ strength upper/lower extremities. 
Appears anxious. 
 
Pertinent Results:
ADMISSION LABS:
___ 06:45PM BLOOD WBC-5.8 RBC-4.90 Hgb-14.1 Hct-40.6 MCV-83 
MCH-28.8 MCHC-34.7 RDW-12.1 RDWSD-36.8 Plt ___
___ 06:45PM BLOOD Neuts-70.4 Lymphs-18.8* Monos-10.4 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.11 AbsLymp-1.10* 
AbsMono-0.61 AbsEos-0.00* AbsBaso-0.01
___ 06:45PM BLOOD ___ PTT-29.5 ___
___ 06:45PM BLOOD Glucose-101* UreaN-9 Creat-0.7 Na-136 
K-3.9 Cl-98 HCO3-22 AnGap-16
___ 06:45PM BLOOD ALT-67* AST-110* CK(CPK)-976* AlkPhos-69 
TotBili-0.8
___ 06:45PM BLOOD CK-MB-32* MB Indx-3.3 proBNP-2796*
___ 06:45PM BLOOD Albumin-4.3 Calcium-8.5 Phos-2.8 Mg-2.1
___ 03:00AM BLOOD calTIBC-281 Ferritn-458* TRF-216
___ 06:45PM BLOOD TSH-4.6*
___ 03:00AM BLOOD TSH-5.0*
___ 03:00AM BLOOD T3-145 Free T4-1.6
___ 03:00AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 03:00AM BLOOD ___ CRP-63.4*
___ 03:00AM BLOOD HIV Ab-NEG
___ 03:00AM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
___ 11:00AM BLOOD Ethanol-NEG
___ 03:00AM BLOOD HCV Ab-NEG
___ 03:27AM BLOOD ___ pO2-45* pCO2-39 pH-7.37 
calTCO2-23 Base XS--2 Comment-GREEN TOP 
___ 03:27AM BLOOD Lactate-1.3
___ 06:48PM BLOOD Lactate-1.3
___ 06:08AM BLOOD SED RATE-Test     

DISCHARGE LABS:
___ 08:52AM BLOOD WBC-3.4* RBC-4.85 Hgb-13.9 Hct-40.5 
MCV-84 MCH-28.7 MCHC-34.3 RDW-12.6 RDWSD-38.0 Plt ___
___ 08:52AM BLOOD Plt ___
___ 08:52AM BLOOD Glucose-95 UreaN-15 Creat-0.9 Na-138 
K-4.1 Cl-101 HCO3-24 AnGap-13
___ 08:52AM BLOOD ALT-87* AST-60* LD(LDH)-556* AlkPhos-77 
TotBili-0.7
___ 11:00AM BLOOD CK-MB-7 cTropnT-1.08*
___ 08:52AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.2

PERTINENT STUDIES:
Transthoracic Echocardiogram Report
Name: ___ MRN: ___ Date: ___ 11:00
CONCLUSION:
The left atrium is elongated. There is normal left ventricular 
wall thickness with a normal cavity size. There is
normal regional and global left ventricular systolic function. 
Quantitative 3D volumetric left ventricular
ejection fraction is 59 %. There is no resting left ventricular 
outflow tract gradient. Normal right ventricular
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending
aorta diameter for gender. The aortic arch diameter is normal. 
The aortic valve leaflets (3) appear structurally
normal. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve
leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The pulmonary artery systolic
pressure could not be estimated. There is no pericardial 
effusion.
IMPRESSION: Normal biventricular cavity sizes and 
regional/global systolic function. No valvular
pathology or pathologic flow identified.

MICROBIOLOGY:
___ 12:32 am Rapid Respiratory Viral Screen & Culture
      Source: Nasal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      SPECIMEN NOT PROCESSED DUE TO: Swab not collected in 
UTM-RT,
      unacceptable for respiratory viral culture and/or 
Influenza PCR.. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 
      Reported to and read back by ___ ___ ___ AT 
12:25. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
__________________________________________________________
___ 6:45 pm Blood (LYME)      ADDED. 

                            **FINAL REPORT ___

   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
      Negative results do not rule out B. burgdorferi infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody. 
__________________________________________________________
___ 8:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:45 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with history of anxiety and 
depression who presented with 5 days of fatigue, fever to ___, 
loose stools, chest pain, shortness of breath, found to have 
myopericarditis. 

ACUTE PROBLEMS: 
===============
# Myopericarditis
# Viral cardiomyopathy
# Acute heart failure with reduced ejection fraction 
Patient presented with likely viral syndrome (fever, loose 
stools, recent sick contacts) and cardiac symptoms. EKG with 
with diffuse ST elevations, elevated CRP and troponins, and 
newly reduced ejection fraction (___) on TTE at ___, 
overall consistent with viral myopericarditis. He was started on 
ASA, colchicine for his discomfort and anti-inflammatory effect. 
Repeat TTE showed rapid improved ejection fraction by the next 
day on repeat TTE. No diuretics were required. Remained 
hemodynamically stable. Monitored on telemetry without incident. 
The clinical history and rapid recovery are highly suggestive of 
viral myopericarditis and less consistent with rarer autoimmune 
causes such as giant cell myocarditis, eosinophilic myocarditis, 
lupus, and vasculitis. ___ was negative. Lyme IgM and IgG 
negative. Patient has documented anaphylactic reaction to 
ibuprofen but tolerated aspirin with side effects. He will 
continue aspirin 650 TID through 2 weeks after symptom 
resolution and colchicine 0.6mg BID for 3 months for 
pericarditis. He was also started on Lisinopril 5mg QD given his 
briefly reduced ejection fraction and hypertension. Will 
follow-up with cardiology as scheduled with Dr. ___ on ___. 
Recommend outpatient cardiac MRI for more definitive rule out of 
other less likely etiologies. Cardiac ischemia less likely given 
the clinical history and age, though could consider coronary CTA 
as an outpatient. Told to avoid any strenuous activity or 
alcohol until cleared by cardiologist.

# Sinus tachycardia: 
Likely compensatory in setting of HFrEF to maintain cardiac 
output. Held off on beta blockade given his tachycardia was 
likely instrumental to maintaining his cardiac output. Following 
rapid recovery of his EF, heart rate gradually downtrended to 
the ___.

# Troponinemia
Likely due to inflammation of the myocardium. Low suspicion for 
ischemia given his age and history. Trended to peak (1.29 
troponin T, ___, now downtrending.

# Transaminitis: 
Mild. AST > ALT, though this eventually reversed as AST 
downtrended and ALT remained persistently elevated. Likely 
related to viral syndrome, and myocyte damage from 
myopericarditis. RUQ ultrasound at ___ also consistent 
with underying fatty liver disease. Negative Hepatitis A/B/C 
serologies. HIV negative. Recommend trending LFTs as outpatient 
to normal and surveillance right upper quadrant ultrasounds 
given new diagnosis of fatty liver disease.

# Coagulopathy: 
Mild INR elevation to 1.4 on admission. Unclear etiology, but 
likely related to viral syndrome and liver dysfunction as above. 
Now downtrending. Would trend along with LFTs as an outpatient. 

# Elevated TSH: 
___ be in the setting of acute infection, unlikely cause of 
myocarditis. Free T4 and T3 normal. Recommend rechecking TSH as 
outpatient once acute illness has resolved.

NEW MEDICATIONS:
================
Aspirin 650mg TID x 2 weeks after symptom duration
Colchicine 0.6mg BID x 3 months
Lisinopril 5mg QD 
Omeprazole 20mg QD for PUD prophylaxis while on ASA
Tramadol 50mg for 7 pills

HELD MEDICATIONS:
=================
Adderall (unknown dose or frequency)

TRANSITIONAL ISSUES:
====================
Discharge weight: 116.2kg
Discharge Cr: 0.9

[ ] Discontinue aspirin 2 weeks after symptom resolution.
[ ] Started on omeprazole daily for peptic ulcer disease while 
on ASA. Please discontinue once ASA therapy completed.
[ ] Continue colchicine x 3 months
[ ] Repeat CBC in 1 month to monitor for bone marrow suppression 
on colchicine
[ ] Follow up with cardiology, Dr. ___ for ___, 
would consider cardiac MRI +/- coronary CTA for further workup
[ ] Noted to have fatty liver disease on RUQ U/S with 
transamnitis on discharge. Will need repeat LFTs and coags as an 
outpatient, as well as surveillance right upper quadrant 
ultrasounds.
[ ] Will also need fasting lipid panel given new NAFLD and 
treatment of hyperlipidemia if present.
[ ] Hepatitis A and B vaccines
[ ] Monitor BP in outpatient setting and consider whether to 
continue Lisinopril
[ ] Repeat TSH after resolution of acute illness.
[ ] No ETOH, no strenuous activity until cleared by cardiology
[ ] Tolerated aspirin but has history of anaphylaxis to 
ibuprofen, be cautious with starting NSAIDs other than aspirin.

CORE MEASURES:
==============
#CODE: Full (presumed)
#CONTACT:
Name of health care proxy: ___ 
___: mother 
Phone number: ___ 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amphetamine-Dextroamphetamine Dose is Unknown  PO Frequency 
is Unknown 
2. Medical marijuana

 
Discharge Medications:
1.  Aspirin 650 mg PO TID 
RX *aspirin 325 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
2.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*2 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
5.  TraMADol 25 mg PO QHS:PRN Pain - Moderate Duration: 7 Doses 
RX *tramadol 50 mg ___ tablet(s) by mouth at bedtime Disp #*7 
Tablet Refills:*0 
6. Medical marijuana
7. HELD- Amphetamine-Dextroamphetamine Dose is Unknown  PO 
Frequency is Unknown  This medication was held. Do not restart 
Amphetamine-Dextroamphetamine until you discuss this medication 
with your primary care provider.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
# Myopericarditis
# Likely nonischemic cardiomyopathy
# Acute heart failure with reduced ejection fraction 
# Sinus tachycardia
# Troponinemia
# Transaminitis
# Coagulopathy
# Elevated TSH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

I spent > 30 minutes coordinating the discharge of this patient 
including educating him about myopericarditis, explaining the 
new medications, and arranging for follow up appointments next 
week with his PCP and ___ (Dr. ___ at ___. 

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
-You had fatigue, chest tightness, and difficulty breathing. We 
found that your heart was not pumping well due to inflammation.
 
What was done for you in the hospital:
-We gave you medicine to relieve your chest discomfort and calm 
down the inflammation occurring in your heart.
-We tracked the recovery of your heart function with ultrasound 
and monitored your heart rhythm with telemetry.
 
What you should do after you leave the hospital:
- Please weigh yourself daily and if you gain 3 or more pounds 
in one day, call your doctor.

- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.

- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.

- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

We wish you the best!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___